US05220018
3-Aminobenzene-1,2,4-oxadiazol-5-one hydrochloride
A solution of ethyl acetate (10 ml) containing 150 mg of 3-(tert-butyloxycarbonylamino)benzene-1,2,4-oxadiazol-5-one was cooled to 0° C. and treated with a continuous stream of hydrogen chloride gas for 10 minutes. The reaction mixture was stirred for 30 minutes more and the solvent and excess hydrogen chloride were removed under reduced pressure. The residue was azeotropically dried with toluene to give 120 mg of the title compound in sufficient purity to continue directly to the next step.

reactant | 3-(tert-butyloxycarbonylamino)benzene 1,2,4-oxadiazol-5-one | 150 mg | C(C)(C)(C)OC(=O)NC=1C=CC=CC1.O1NC=NC1=O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-Aminobenzene 1,2,4-oxadiazol-5-one hydrochloride | 120 mg | NC=1C=CC=CC1.Cl.O1NC=NC1=O | InChI=1S/C6H7N.C2H2N2O2.ClH/c7-6-4-2-1-3-5-6;5-2-3-1-4-6-2;/h1-5H,7H2;1H,(H,3,4,5);1H
